US04766131
N-(4-Aminophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline dihydrochloride (10.0 g, 0.025 m) was dissolved in 49% HBr (25 ml) maintained under nitrogen and heated to 120° for 18 hr. after which time a white solid had precipitated. The mixture was cooled and the solid slurried with isopropanol (50 ml), stirred for 1 hr., and the solid collected by filtration. The solid was washed three times with isopropanol and vacuum dried at 100° for 48 hr. to give 8.5 g N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6,7-dihydroxy-1-methylisoquinoline dihydrobromide as an off-white solid, m.p. 275°-278°.

reactant | N-(4-Aminophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline dihydrochloride | 10.0 g | Cl.Cl.NC1=CC=C(CCN2C(C3=CC(=C(C=C3CC2)OC)OC)C)C=C1
reactant | HBr | 25 ml | Br | BrH
product | N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6,7-dihydroxy-1-methylisoquinoline dihydrobromide | 8.5 g | Br.Br.NC1=CC=C(CCN2C(C3=CC(=C(C=C3CC2)O)O)C)C=C1 | InChI=1S/C18H22N2O2.2BrH/c1-12-16-11-18(22)17(21)10-14(16)7-9-20(12)8-6-13-2-4-15(19)5-3-13;;/h2-5,10-12,21-22H,6-9,19H2,1H3;2*1H
